// Generated for: spectre
// Generated on: Oct  8 11:30:10 2016
// Design library name: CMOS
// Design cell name: Inverter_testbench
// Design view name: schematic
simulator lang=spectre
global 0
parameters VDD=3.3 VG=3.3
include "/export/opt/ncsu-cdk-1.6.0.beta/models/spectre/standalone/tsmc35N.m"
include "/export/opt/ncsu-cdk-1.6.0.beta/models/spectre/standalone/tsmc35P.m"

// Library name: CMOS
// Cell name: Inverter
// View name: schematic
subckt Inverter GND IN OUT VDD
    P0 (OUT IN VDD VDD) tsmc35P w=12.0u l=1.6u as=1.2e-11 ad=1.2e-11 \
        ps=26.0u pd=26.0u m=1 region=sat
    N0 (OUT IN GND GND) tsmc35N w=4u l=1.6u as=4e-12 ad=4e-12 ps=10u \
        pd=10u m=1 region=sat
ends Inverter
// End of subcircuit definition.

// Library name: CMOS
// Cell name: Inverter_testbench
// View name: schematic
I0 (0 net1 net3 net2) Inverter
C0 (net3 0) capacitor c=50f m=1
V0 (net2 0) vsource type=dc dc=VDD
VG (net1 0) vsource type=dc dc=VG
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=VG start=0 stop=3.3 step=0.1 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
